US04895937
Chlorotrimethylsilane (4.11 ml; 32.5 mmol) was introduced by syringe, into a solution of 1.5 g (10.2 mmol) of the 2-methoxy-5-(1-propynyl)pyrimidine and 4.56 g (30.44 mmol) of NaI in 35 ml of anhydrous acetonitrile maintained under an atmosphere of dry nitrogen and removed from light. The mixture was stirred at 50° C. for 21/2 hours with periodic monitoring by tlc. The mixture was cooled in an ice-bath and 3.5 g (8.14 mmol) of the halogenose, 1-(3,5-di-O-(p-chlorobenzoyl)-2-deoxy-α-D-ribofuranosyl)-chloride were then added. To this mixture was added 3 ml of 1N trimethylsilyl triflate in 1,2-dichloroethane; the mixture was stirred at 0° C. for 1 hour and then at room temperature for 21/2 hours. The reaction mixture was then diluted with dichloromethane (150 ml) and saturated aqueous bicarbonate (65 ml). The organic extract was subsequently washed with water (60 ml), dried over magnesium sulfate and concentrated to a residue which was subjected to flash chromatography on 80 g of silica gel. The fractions containing the slower moving alpha anomer were pooled and concentrated to a minimum volume with attendant precipitation. The mixture was cooled and filtered; the white product washed with diethyl ether and dried at 50° C. to provide 1.1 g (25.7%) of 1-(3,5-di-O-)p-chlorobenzoyl)-2-deoxy-α-D-ribofuranosyl)-5-(1-propynyl)-2-pyrimidinone; mp 176°-178° C.

reactant | Chlorotrimethylsilane | 32.5 mmol, 4.11 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-methoxy-5-(1-propynyl)pyrimidine | 10.2 mmol, 1.5 g | COC1=NC=C(C=N1)C#CC | C8H8N2O
reactant | NaI | 30.44 mmol, 4.56 g | [Na+].[I-]
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 5-(1-propynyl)-2-pyrimidinone | C(#CC)C=1C=NC(NC1)=O | C7H6N2O
